US05869482
A mixture of 2-fluoro-3-iodopyridine (5 g), trimethylsilylacetylene (2.86 g) copper(I) iodide (0.015 g) and bis(triphenylphosphine)palladium dichloride (0.06 g) in a mixture of THF (20 mL) and triethylamine (30 mL) was stirred under argon for 4 hours. The solvents were evaporated and the residue was taken up in water/ethyl acetate. The organic phase was separated, dried and evaporated. Distillation of the residue gave 2-fluoro-3-(trimethylsilylethynyl)pyridine as an oil (4.10 g).

reactant | 2-fluoro-3-iodopyridine | 5 g | FC1=NC=CC=C1I | C5H3FIN
reactant | trimethylsilylacetylene | 2.86 g | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium dichloride | 0.06 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-fluoro-3-(trimethylsilylethynyl)pyridine | 4.10 g | FC1=NC=CC=C1C#C[Si](C)(C)C | C10H12FNSi
